US05659065
2(S)-(-tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-5-methyl-hexanal
At 0° C., first triethylamine (175.6 ml) and then a solution of pyridine/sulfur trioxide complex (221 g) in dimethyl sulfate (0.84 liters) are added dropwise over a period of 45 minutes, with stirring, to a solution of 2(S)-(tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-5-methyl-hexanol (184.8 g) in dichloromethane (1.34 liters). When the addition is complete, the batch is stirred for a further 30 minutes at 0° C. and then ice-water (1.6 liters) is added. The mixture is extracted with dichloromethane (3×1.6 liters), and the combined organic phases are washed with saturated sodium hydrogen carbonate solution (2×1.6 liters), water (1.6 liters) and saturated sodium chloride solution and filtered through cotton wool and the solvent is removed in vacuo. The residue is dried under a high vacuum, yielding the crude title compound in the form of an oil (190 g): Rf (ethyl acetate/hexane 1:1)=0.44. IR (CH2Cl2) 3430, 2960, 1710, 1589, 1515 cm-. 1H-NMR (CDCl3): δ 0.86 (m, 6H), 1.44 (s, 9H), 1.55-1.8 (m, 4H), 2.09 (m, 2H), 2.4-2.7 (m, 2H), 3.35 (s, 3H), 3.57 (t, J=6.4 Hz, 2H), 3.83 (s, 3H), 4.10 (t, J=6.4 Hz, 2H), 4.05-4.20 (m, 1H), 4.89 (d, br., 1), 6.7-6.8 (m, 3H), 9.50 (s, 1H).

reactant | triethylamine | 175.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2(S)-(tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-5-methyl-hexanol | 184.8 g | C(C)(C)(C)OC(=O)N[C@H](CO)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C24H41NO6
solvent | dimethyl sulfate | 0.84 liters | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dichloromethane | 1.34 liters | ClCCl | CH2Cl2
product | 2(S)-(-tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxy-propoxy)-benzyl]-5-methyl-hexanal | C(C)(C)(C)OC(=O)N[C@H](C=O)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C24H39NO6
